US04257802
To a stirred mixture of 0.8 g of 2-methylamino-4-methoxy-6-methylpyrimidine in 25 ml of acetonitrile containing a few crystals of 1,4-diazabicyclo[2.2.2]octane was added dropwise 1.3 g of 2,5-dichlorobenzenesulfonyl isocyanate. The mixture was stirred for 16 hours and the resultant solid was filtered to afford 1.2 g of N-[N-(4-methoxy-6-methylpyrimidine-2-yl)-N-methylaminocarbonyl]-2,5-dichlorobenzenesulfonamide melting at 182°-185°. Infrared absorption spectrum showed peaks at 1690 cm-1, 1590 cm-1, and 1550 cm-1 which are typical for this type of compound.

reactant | 2-methylamino-4-methoxy-6-methylpyrimidine | 0.8 g | CNC1=NC(=CC(=N1)OC)C | C7H11N3O
reactant | 1,4-diazabicyclo[2.2.2]octane | N12CCN(CC1)CC2 | C6H12N2
reactant | 2,5-dichlorobenzenesulfonyl isocyanate | 1.3 g | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)N=C=O | C7H3Cl2NO3S
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | N-[N-(4-methoxy-6-methylpyrimidine-2-yl)-N-methylaminocarbonyl]-2,5-dichlorobenzenesulfonamide | 1.2 g | COC1=NC(=NC(=C1)C)N(C(=O)NS(=O)(=O)C1=C(C=CC(=C1)Cl)Cl)C | C14H14Cl2N4O4S
